US07666879B2
B. Diethyl-(4-iodo-pyridin-2-ylmethyl)-amine
Combine 4-iodo-2-methyl-pyridine (1.1 g, 5 mmol), NBS (0.98 g, 1.1 equiv.) and carbon tetrachloride (50 mL) in a round bottomed flask under nitrogen. Add AIBN (82 mg, 0.1 equiv.) and heat reaction overnight at reflux. Filter the reaction, washing with hexanes. Concentrate filtrate to approximately 10-20 mL volume. Redissolve in THF (20 mL) and cool to 0° C. under nitrogen. Add diethylamine (1.04 mL, 2 equiv.) dropwise via syringe and stir one hour at 0° C. Remove cooling bath and let warm to room temperature. After 6 hours total, concentrate to dryness and purify by silica gel (1:1 Hexanes:Ethyl Acetate→Ethyl Acetate) to give a tan liquid (0.51 g, 35% over 2 steps). MS (ES), m/z 291.0 (M+1).

reactant | 4-iodo-2-methyl-pyridine | 5 mmol, 1.1 g | IC1=CC(=NC=C1)C | C6H6IN
reactant | NBS | 0.98 g, 1.1 equiv. | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 82 mg, 0.1 equiv. | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | diethylamine | 1.04 mL, 2 equiv. | C(C)NCC | C4H11N
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | Diethyl-(4-iodo-pyridin-2-ylmethyl)-amine | C(C)N(CC1=NC=CC(=C1)I)CC | C10H15IN2
